US06384080B1
Trifluoroacetic acid (5 mL) was added to a solution of (R)-2-[1-(tert-butoxycarbonyl)pyrrolidin-3-ylamino]-5-cyano-N-(3,4-dimethoxybenzyl)benzamide (918 mg) in chloroform (5 mL). The mixture was stirred for 4 hours at ambient temperature and concentrated in vacuo. The residue was partitioned between chloroform and an aqueous saturated sodium bicarbonate solution. The organic layer was dried over magnesium sulfate and concentrated in vacuo to give (R)-5-cyano-N-(3,4-dimethoxybenzyl)-2-(3-pyrrolidinylamino)benzamide (610 mg) as amorphous powders.

reactant | Trifluoroacetic acid | 5 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | (R)-2-[1-(tert-butoxycarbonyl)pyrrolidin-3-ylamino]-5-cyano-N-(3,4-dimethoxybenzyl)benzamide | 918 mg | C(C)(C)(C)OC(=O)N1C[C@@H](CC1)NC1=C(C(=O)NCC2=CC(=C(C=C2)OC)OC)C=C(C=C1)C#N | C26H32N4O5
solvent | chloroform | 5 mL | C(Cl)(Cl)Cl | CHCl3
product | (R)-5-cyano-N-(3,4-dimethoxybenzyl)-2-(3-pyrrolidinylamino)benzamide | 610 mg | C(#N)C=1C=CC(=C(C(=O)NCC2=CC(=C(C=C2)OC)OC)C1)N[C@H]1CNCC1 | C21H24N4O3
